US05034417
A mixture of 4'-amino-3'-(2,4-difluorophenylamino)acetophenone (1.7 g) and methanesulfonyl chloride (0.9 g) in pyridine (17 ml) was stirred for 4 hours at room temperature. Pyridine was evaporated and the residue was stirred with an aqueous solution of sodium hydroxide (5%) for 30 minutes. The solution was washed with toluene, acidified to pH 3 with hydrochloric acid, and extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium bicarbonate, dried, and concentrated under reduced pressure. The syrupy residue (1.8 g) was crystallized from ethanol to give pale yellow crystals of 4'-acetyl-2'-(2,4-difluorophenylamino)methanesulfonanilide (1.3 g).

reactant | 4'-amino-3'-(2,4-difluorophenylamino)acetophenone | 1.7 g | NC1=C(C=C(C=C1)C(C)=O)NC1=C(C=C(C=C1)F)F | C14H12F2N2O
reactant | methanesulfonyl chloride | 0.9 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 17 ml | N1=CC=CC=C1 | C5H5N
product | 4'-acetyl-2'-(2,4-difluorophenylamino)methanesulfonanilide | 1.3 g | C(C)(=O)C1=CC(=C(NS(=O)(=O)C)C=C1)NC1=C(C=C(C=C1)F)F | C15H14F2N2O3S
